US07728009B1
Step 5. Preparation of (4-isopropyl-piperazin-1-yl)-(4-methyl-5-naphthalen-1-yl-thiazol-2-yl)-methanone
To a solution of 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid in methylene chloride (2 ml) is added BOP (44 mg, 0.10 mmol), isopropylpiperazine (13 mg, 0.10 mmol) and Et3N (20 mg, 0.20 mmol). The reaction mixture is stirred at rt for 2 hr. Solvent is removed and the resulting mixture is purified by PTLC to give the title compound. LC-MS M+1 380.03. 1H NMR δ (CDCl3) 7.90-7.96 (m, 2H), 7.68-7.72 (m, 1H), 7.46-7.56 (m, 4H), 4.51 (brs, 2H), 3.85 (brs, 2H), 2.77 (m, 1H), 2.67 (brs, 4H), 2.25 (s, 3H), 1.10 (d, 6H). LC-MS (M+1) 380.1.

reactant | 4-methyl-5-naphthalen-1-yl-thiazole-2-carboxylic acid | CC=1N=C(SC1C1=CC=CC2=CC=CC=C12)C(=O)O | C15H11NO2S
reactant | BOP | 0.10 mmol, 44 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | isopropylpiperazine | 0.10 mmol, 13 mg | C(C)(C)N1CCNCC1 | C7H16N2
reactant | Et3N | 0.20 mmol, 20 mg | CCN(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (4-isopropyl-piperazin-1-yl)-(4-methyl-5-naphthalen-1-yl-thiazol-2-yl)-methanone | C(C)(C)N1CCN(CC1)C(=O)C=1SC(=C(N1)C)C1=CC=CC2=CC=CC=C12 | C22H25N3OS
